US04022833
In a manner similar to that of Example 22, methylation of N,N'-ethylenebis[2-hydroxydecylamine] (15 g.) and treatment of the resulting product with hydrogen bromide gave N,N'ethylene-bis[N-methyl-2-hydroxydecylamine] (I: R= CH3 (CH2)7, R' = CH3, X= (CH2)2, Z= H) dihydrobromide (4.0 g., m.p. 152.0°-164.0° C.).

reactant | hydrogen bromide | Br | BrH
reactant | N,N'ethylene-bis[N-methyl-2-hydroxydecylamine] | C(CN(C)CC(CCCCCCCC)O)N(C)CC(CCCCCCCC)O | C24H52N2O2
product | N,N'-ethylenebis[2-hydroxydecylamine] | 15 g | C(CNCC(CCCCCCCC)O)NCC(CCCCCCCC)O | C22H48N2O2
